US07432271B2
B. N-{2-[5-(2-Morpholin-4-yl-pyridin-4-yl)-3-thiophen-2-yl-1H-pyrazol-4-yl]-ethyl}-4-pentyl-benzene sulfonamide
A mixture of N- {2-[5-(2-Chloro-pyridin-4-yl)-3-thiophen-2-yl-1H-pyrazol-4-yl]-ethyl}-4-pentyl-benzenesulfonamide (10 mg, 19.4 μmol) and morpholine (17 μl, 194 μmol) in 1-methyl-2-pyrrolidinone (500 μL) was stirred at 190° C. in a seal tube for 3 h. The reaction mixture was concentrated to 2 ml. The crude product was purified by Prep-HPLC. Removal of the solvent in vacuo provided the title compound (8.3 mg, 76% yield). MS m/e 566; HPLC retention time 3.35 min (Method A).

reactant | N- {2-[5-(2-Chloro-pyridin-4-yl)-3-thiophen-2-yl-1H-pyrazol-4-yl]-ethyl}-4-pentyl-benzenesulfonamide | 19.4 μmol, 10 mg | ClC1=NC=CC(=C1)C1=C(C(=NN1)C=1SC=CC1)CCNS(=O)(=O)C1=CC=C(C=C1)CCCCC | C25H27ClN4O2S2
reactant | morpholine | 194 μmol, 17 μl | N1CCOCC1 | C4H9NO
solvent | 1-methyl-2-pyrrolidinone | 500 μL | CN1C(CCC1)=O | C5H9NO
product | N-{2-[5-(2-Morpholin-4-yl-pyridin-4-yl)-3-thiophen-2-yl-1H-pyrazol-4-yl]-ethyl}-4-pentyl-benzene sulfonamide | 8.3 mg, 76% yield | N1(CCOCC1)C1=NC=CC(=C1)C1=C(C(=NN1)C=1SC=CC1)CCNS(=O)(=O)C1=CC=C(C=C1)CCCCC | C29H35N5O3S2
